US04256759
The mixture of 5.7 g of 1-methyl-β-oxo-α-ethoxycarbonyl-2-pyrrolpropionitrile, 3,6 g of p-aminophenol and 300 ml of xylene is refluxed for 2 hours and filtered hot. The filtrate is chilled, the crystals formed collected and recrystallized from methanol, to yield the 1-methyl-β-oxo-α-(p-hydroxyphenylcarbamoyl)-2-pyrrolpropionitrile melting at 182°-184°.

reactant | 1-methyl-β-oxo-α-ethoxycarbonyl-2-pyrrolpropionitrile | 5.7 g | CN1C(=CC=C1)C(C(C#N)C(=O)OCC)=O | C11H12N2O3
reactant | p-aminophenol | 3,6 g | C1=CC(=CC=C1N)O | C6H7NO
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-methyl-β-oxo-α-(p-hydroxyphenylcarbamoyl)-2-pyrrolpropionitrile | CN1C(=CC=C1)C(C(C#N)C(NC1=CC=C(C=C1)O)=O)=O | C15H13N3O3
